* =============================================================================
* File: booth_encoder.spice
* Target Technology: SCL 180nm CMOS PDK (ts18scl) / 1.8V Standard Cells
* Description: Full-Custom Transistor-Level Radix-4 Booth Encoder & Selector
* Architecture: 100% Pure Static Complementary CMOS (PUN to VDD, PDN to VSS)
* Compatibility: Cadence Virtuoso IC618 (SpiceIn / schCheck clean) & Spectre
* Note: SPICE MOSFET terminal order: Drain Gate Source Bulk
* =============================================================================

* =============================================================================
* TOP-LEVEL SUBCIRCUIT: Radix-4 Modified Booth Encoder
* -----------------------------------------------------------------------------
* Truth Table:
*   Y_PLUS Y_CURR Y_PREV | Factor | SINGLE DOUBLE NEG
*     0      0      0    |    0   |   0      0     0
*     0      0      1    |   +1   |   1      0     0
*     0      1      0    |   +1   |   1      0     0
*     0      1      1    |   +2   |   0      1     0
*     1      0      0    |   -2   |   0      1     1
*     1      0      1    |   -1   |   1      0     1
*     1      1      0    |   -1   |   1      0     1
*     1      1      1    |    0   |   0      0     0
*
* Boolean Logic:
*   SINGLE = Y_CURR ^ Y_PREV
*   DOUBLE = (~Y_PLUS & Y_CURR & Y_PREV) | (Y_PLUS & ~Y_CURR & ~Y_PREV)
*   NEG    = Y_PLUS & (~Y_CURR | ~Y_PREV)
* =============================================================================
.subckt BOOTH_ENCODER Y_PLUS Y_CURR Y_PREV SINGLE DOUBLE NEG VDD VSS

* -----------------------------------------------------------------------------
* Stage 1: Local Input Inverters (Generate True Complements for Dual Networks)
* -----------------------------------------------------------------------------
* Inverter XINV_YP: Generates Y_PLUS_B (~Y_PLUS)
*   Input = Y_PLUS, Output = Y_PLUS_B, VDD = VDD, VSS = VSS
XINV_YP Y_PLUS Y_PLUS_B VDD VSS SCL180_INV_1X

* Inverter XINV_YC: Generates Y_CURR_B (~Y_CURR)
*   Input = Y_CURR, Output = Y_CURR_B, VDD = VDD, VSS = VSS
XINV_YC Y_CURR Y_CURR_B VDD VSS SCL180_INV_1X

* Inverter XINV_YM: Generates Y_PREV_B (~Y_PREV)
*   Input = Y_PREV, Output = Y_PREV_B, VDD = VDD, VSS = VSS
XINV_YM Y_PREV Y_PREV_B VDD VSS SCL180_INV_1X

* -----------------------------------------------------------------------------
* Stage 2: SINGLE Generator (Pure Static CMOS XOR2: SINGLE = Y_CURR ^ Y_PREV)
*   Inputs: A=Y_CURR, A_B=Y_CURR_B, B=Y_PREV, B_B=Y_PREV_B
*   Output: SINGLE
* -----------------------------------------------------------------------------
XXOR_S Y_CURR Y_CURR_B Y_PREV Y_PREV_B SINGLE VDD VSS CMOS_XOR2_CORE

* -----------------------------------------------------------------------------
* Stage 3: DOUBLE Generator (Pure Static CMOS Compound AOI23 + Inverter)
*   Inputs: Y_PLUS, Y_PLUS_B, Y_CURR, Y_CURR_B, Y_PREV, Y_PREV_B
*   Output: DOUBLE
* -----------------------------------------------------------------------------
XGEN_D Y_PLUS Y_PLUS_B Y_CURR Y_CURR_B Y_PREV Y_PREV_B DOUBLE VDD VSS BOOTH_DOUBLE_GEN

* -----------------------------------------------------------------------------
* Stage 4: NEG Generator (Pure Static CMOS Compound OAI21 + Inverter)
*   Inputs: Y_PLUS, Y_CURR_B, Y_PREV_B
*   Output: NEG
* -----------------------------------------------------------------------------
XGEN_N Y_PLUS Y_CURR_B Y_PREV_B NEG VDD VSS BOOTH_NEG_GEN

.ends BOOTH_ENCODER


* =============================================================================
* TOP-LEVEL SUBCIRCUIT: Radix-4 Booth Partial Product Selector Bit-Slice
* -----------------------------------------------------------------------------
* Selects between 0, 1X (X_CURR), 2X (X_PREV) and inverts conditionally if NEG=1
*
* Logic:
*   MAG    = (SINGLE & X_CURR) | (DOUBLE & X_PREV)
*   PP_OUT = MAG ^ NEG
* =============================================================================
.subckt BOOTH_SELECTOR X_CURR X_PREV SINGLE DOUBLE NEG PP_OUT VDD VSS

* -----------------------------------------------------------------------------
* Step 1: Magnitude Selection via Static CMOS AOI22 Gate
*   MAG_B = ~((SINGLE & X_CURR) | (DOUBLE & X_PREV))
*   Inputs: A=SINGLE, B=X_CURR, C=DOUBLE, D=X_PREV
*   Output: MAG_B
* -----------------------------------------------------------------------------
XAOI_MAG SINGLE X_CURR DOUBLE X_PREV MAG_B VDD VSS CMOS_AOI22

* -----------------------------------------------------------------------------
* Step 2: Buffers to generate true MAG and NEG_B signals
* -----------------------------------------------------------------------------
* Inverts MAG_B to generate true MAG
XINV_MAG  MAG_B MAG     VDD VSS SCL180_INV_1X
* Inverts NEG to generate complement NEG_B
XINV_NEG  NEG   NEG_B   VDD VSS SCL180_INV_1X

* -----------------------------------------------------------------------------
* Step 3: Conditional Inversion via Static CMOS XOR2
*   PP_OUT = MAG ^ NEG
*   If NEG = 0 -> PP_OUT = MAG
*   If NEG = 1 -> PP_OUT = ~MAG
* -----------------------------------------------------------------------------
XXOR_SIGN MAG MAG_B NEG NEG_B PP_OUT VDD VSS CMOS_XOR2_CORE

.ends BOOTH_SELECTOR


* =============================================================================
* LEAF CELL: Pure Static CMOS XOR2 Core
* -----------------------------------------------------------------------------
* Logic: OUT = A ^ B
* Inputs: A, A_B, B, B_B
* Output: OUT
* Architecture:
*   PUN: Dual series-parallel PMOS network pulling XNOR node to VDD when A==B
*   PDN: Dual parallel branches of series NMOS pulling XNOR to VSS when A!=B
*   Driver: Final CMOS inverter to produce true XOR output (OUT = ~XNOR)
* =============================================================================
.subckt CMOS_XOR2_CORE A A_B B B_B OUT VDD VSS

* -----------------------------------------------------------------------------
* Pull-Up Network (PUN): PMOS transistors connected to VDD rail
* -----------------------------------------------------------------------------
* PMOS XM_P1: Drain=N_P1, Gate=A, Source=VDD, Bulk=VDD
*   -> Turns ON when A=0 (LOW); pulls intermediate node N_P1 up to VDD
XM_P1 N_P1 A VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_P2: Drain=N_P1, Gate=B_B, Source=VDD, Bulk=VDD
*   -> Turns ON when B=1 (B_B=0, LOW); pulls intermediate node N_P1 up to VDD
XM_P2 N_P1 B_B VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_P3: Drain=XNOR, Gate=A_B, Source=N_P1, Bulk=VDD
*   -> Turns ON when A=1 (A_B=0, LOW); connects N_P1 to output node XNOR
XM_P3 XNOR A_B N_P1 VDD p18.1 W=1.2u L=0.18u

* PMOS XM_P4: Drain=XNOR, Gate=B, Source=N_P1, Bulk=VDD
*   -> Turns ON when B=0 (LOW); connects N_P1 to output node XNOR
XM_P4 XNOR B N_P1 VDD p18.1 W=1.2u L=0.18u

* -----------------------------------------------------------------------------
* Pull-Down Network (PDN): NMOS transistors connected to VSS rail
* -----------------------------------------------------------------------------
* Branch 1: Conducts when A=1 and B=0 (A=1, B_B=1)
* NMOS XM_N1: Drain=XNOR, Gate=A, Source=N_N1, Bulk=VSS
*   -> Turns ON when A=1 (HIGH); connects XNOR to intermediate node N_N1
XM_N1 XNOR A N_N1 VSS n18.1 W=0.6u L=0.18u

* NMOS XM_N2: Drain=N_N1, Gate=B_B, Source=VSS, Bulk=VSS
*   -> Turns ON when B=0 (B_B=1, HIGH); pulls node N_N1 down to VSS
XM_N2 N_N1 B_B VSS VSS n18.1 W=0.6u L=0.18u

* Branch 2: Conducts when A=0 and B=1 (A_B=1, B=1)
* NMOS XM_N3: Drain=XNOR, Gate=A_B, Source=N_N2, Bulk=VSS
*   -> Turns ON when A=0 (A_B=1, HIGH); connects XNOR to intermediate node N_N2
XM_N3 XNOR A_B N_N2 VSS n18.1 W=0.6u L=0.18u

* NMOS XM_N4: Drain=N_N2, Gate=B, Source=VSS, Bulk=VSS
*   -> Turns ON when B=1 (HIGH); pulls node N_N2 down to VSS
XM_N4 N_N2 B VSS VSS n18.1 W=0.6u L=0.18u

* -----------------------------------------------------------------------------
* Output Inverter: Produces true XOR output (OUT = ~XNOR = A ^ B)
* -----------------------------------------------------------------------------
* PMOS XM_OP: Drain=OUT, Gate=XNOR, Source=VDD, Bulk=VDD
*   -> Turns ON when XNOR=0 (A!=B); drives OUT to VDD (1.8V)
XM_OP OUT XNOR VDD VDD p18.1 W=1.6u L=0.18u

* NMOS XM_ON: Drain=OUT, Gate=XNOR, Source=VSS, Bulk=VSS
*   -> Turns ON when XNOR=1 (A==B); pulls OUT down to VSS (0V)
XM_ON OUT XNOR VSS VSS n18.1 W=0.8u L=0.18u

.ends CMOS_XOR2_CORE


* =============================================================================
* LEAF CELL: Pure Static CMOS DOUBLE Generator (14 Transistors)
* -----------------------------------------------------------------------------
* Logic:
*   DOUBLE_B = ~((~Y_PLUS & Y_CURR & Y_PREV) | (Y_PLUS & ~Y_CURR & ~Y_PREV))
*   DOUBLE   = ~DOUBLE_B
* Condition: DOUBLE = 1 only for triplets 011 (+2) and 100 (-2)
* =============================================================================
.subckt BOOTH_DOUBLE_GEN Y_PLUS Y_PLUS_B Y_CURR Y_CURR_B Y_PREV Y_PREV_B DOUBLE VDD VSS

* -----------------------------------------------------------------------------
* Pull-Down Network (PDN): 2 Parallel Branches of 3 Series NMOS Transistors
* -----------------------------------------------------------------------------
* Branch 1: Active on triplet 011 (+2) -> Y_PLUS_B=1, Y_CURR=1, Y_PREV=1
* NMOS XM_ND1: Drain=DOUBLE_B, Gate=Y_PLUS_B, Source=N_D1, Bulk=VSS
*   -> Turns ON when Y_PLUS=0 (Y_PLUS_B=1); connects DOUBLE_B to N_D1
XM_ND1 DOUBLE_B Y_PLUS_B N_D1 VSS n18.1 W=0.8u L=0.18u

* NMOS XM_ND2: Drain=N_D1, Gate=Y_CURR, Source=N_D2, Bulk=VSS
*   -> Turns ON when Y_CURR=1; connects N_D1 to N_D2
XM_ND2 N_D1 Y_CURR N_D2 VSS n18.1 W=0.8u L=0.18u

* NMOS XM_ND3: Drain=N_D2, Gate=Y_PREV, Source=VSS, Bulk=VSS
*   -> Turns ON when Y_PREV=1; pulls N_D2 down to ground VSS
XM_ND3 N_D2 Y_PREV VSS VSS n18.1 W=0.8u L=0.18u

* Branch 2: Active on triplet 100 (-2) -> Y_PLUS=1, Y_CURR_B=1, Y_PREV_B=1
* NMOS XM_ND4: Drain=DOUBLE_B, Gate=Y_PLUS, Source=N_D3, Bulk=VSS
*   -> Turns ON when Y_PLUS=1; connects DOUBLE_B to N_D3
XM_ND4 DOUBLE_B Y_PLUS N_D3 VSS n18.1 W=0.8u L=0.18u

* NMOS XM_ND5: Drain=N_D3, Gate=Y_CURR_B, Source=N_D4, Bulk=VSS
*   -> Turns ON when Y_CURR=0 (Y_CURR_B=1); connects N_D3 to N_D4
XM_ND5 N_D3 Y_CURR_B N_D4 VSS n18.1 W=0.8u L=0.18u

* NMOS XM_ND6: Drain=N_D4, Gate=Y_PREV_B, Source=VSS, Bulk=VSS
*   -> Turns ON when Y_PREV=0 (Y_PREV_B=1); pulls N_D4 down to ground VSS
XM_ND6 N_D4 Y_PREV_B VSS VSS n18.1 W=0.8u L=0.18u

* -----------------------------------------------------------------------------
* Pull-Up Network (PUN): PMOS Dual Network (Pulls DOUBLE_B to VDD on non-double)
* Group 1: 3 PMOS in parallel from VDD to intermediate node MID_P
* Group 2: 3 PMOS in parallel from MID_P to output node DOUBLE_B
* -----------------------------------------------------------------------------
* PMOS XM_PD1: Drain=MID_P, Gate=Y_PLUS_B, Source=VDD, Bulk=VDD
*   -> Turns ON when Y_PLUS=1 (Y_PLUS_B=0); pulls MID_P to VDD
XM_PD1 MID_P Y_PLUS_B VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_PD2: Drain=MID_P, Gate=Y_CURR, Source=VDD, Bulk=VDD
*   -> Turns ON when Y_CURR=0; pulls MID_P to VDD
XM_PD2 MID_P Y_CURR VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_PD3: Drain=MID_P, Gate=Y_PREV, Source=VDD, Bulk=VDD
*   -> Turns ON when Y_PREV=0; pulls MID_P to VDD
XM_PD3 MID_P Y_PREV VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_PD4: Drain=DOUBLE_B, Gate=Y_PLUS, Source=MID_P, Bulk=VDD
*   -> Turns ON when Y_PLUS=0; connects MID_P to DOUBLE_B
XM_PD4 DOUBLE_B Y_PLUS MID_P VDD p18.1 W=1.2u L=0.18u

* PMOS XM_PD5: Drain=DOUBLE_B, Gate=Y_CURR_B, Source=MID_P, Bulk=VDD
*   -> Turns ON when Y_CURR=1 (Y_CURR_B=0); connects MID_P to DOUBLE_B
XM_PD5 DOUBLE_B Y_CURR_B MID_P VDD p18.1 W=1.2u L=0.18u

* PMOS XM_PD6: Drain=DOUBLE_B, Gate=Y_PREV_B, Source=MID_P, Bulk=VDD
*   -> Turns ON when Y_PREV=1 (Y_PREV_B=0); connects MID_P to DOUBLE_B
XM_PD6 DOUBLE_B Y_PREV_B MID_P VDD p18.1 W=1.2u L=0.18u

* -----------------------------------------------------------------------------
* Output Buffer Inverter: Drives DOUBLE output (DOUBLE = ~DOUBLE_B)
* -----------------------------------------------------------------------------
* PMOS XM_IDP: Drain=DOUBLE, Gate=DOUBLE_B, Source=VDD, Bulk=VDD
*   -> Turns ON when DOUBLE_B=0 (Active Double); drives DOUBLE to 1.8V
XM_IDP DOUBLE DOUBLE_B VDD VDD p18.1 W=2.0u L=0.18u

* NMOS XM_IDN: Drain=DOUBLE, Gate=DOUBLE_B, Source=VSS, Bulk=VSS
*   -> Turns ON when DOUBLE_B=1; discharges DOUBLE to 0.0V
XM_IDN DOUBLE DOUBLE_B VSS VSS n18.1 W=1.0u L=0.18u

.ends BOOTH_DOUBLE_GEN


* =============================================================================
* LEAF CELL: Pure Static CMOS NEG Generator (8 Transistors)
* -----------------------------------------------------------------------------
* Logic:
*   NEG   = Y_PLUS & (~Y_CURR | ~Y_PREV) = Y_PLUS & (Y_CURR_B | Y_PREV_B)
*   NEG_B = ~(Y_PLUS & (Y_CURR_B | Y_PREV_B))
*   NEG   = ~NEG_B
* Condition: NEG = 1 for triplets 100 (-2), 101 (-1), and 110 (-1).
*            NEG = 0 for all 0xx patterns and 111 (zero magnitude).
* =============================================================================
.subckt BOOTH_NEG_GEN Y_PLUS Y_CURR_B Y_PREV_B NEG VDD VSS

* -----------------------------------------------------------------------------
* Pull-Down Network (PDN): Y_PLUS in series with parallel pair (Y_CURR_B | Y_PREV_B)
* -----------------------------------------------------------------------------
* NMOS XM_NN1: Drain=NEG_B, Gate=Y_PLUS, Source=N_N1, Bulk=VSS
*   -> Turns ON when Y_PLUS=1 (Negative range); connects NEG_B to internal node N_N1
XM_NN1 NEG_B Y_PLUS N_N1 VSS n18.1 W=0.8u L=0.18u

* NMOS XM_NN2: Drain=N_N1, Gate=Y_CURR_B, Source=VSS, Bulk=VSS
*   -> Turns ON when Y_CURR=0 (Y_CURR_B=1); pulls N_N1 down to VSS
XM_NN2 N_N1 Y_CURR_B VSS VSS n18.1 W=0.8u L=0.18u

* NMOS XM_NN3: Drain=N_N1, Gate=Y_PREV_B, Source=VSS, Bulk=VSS
*   -> Turns ON when Y_PREV=0 (Y_PREV_B=1); pulls N_N1 down to VSS
XM_NN3 N_N1 Y_PREV_B VSS VSS n18.1 W=0.8u L=0.18u

* -----------------------------------------------------------------------------
* Pull-Up Network (PUN): Pulls NEG_B to VDD when operation is non-negative or 111
* -----------------------------------------------------------------------------
* Branch 1: Single PMOS gated by Y_PLUS (Active when Y_PLUS=0)
* PMOS XM_PN1: Drain=NEG_B, Gate=Y_PLUS, Source=VDD, Bulk=VDD
*   -> Turns ON when Y_PLUS=0 (Positive operations); pulls NEG_B to VDD
XM_PN1 NEG_B Y_PLUS VDD VDD p18.1 W=1.2u L=0.18u

* Branch 2: Two series PMOS gated by Y_CURR_B and Y_PREV_B (Active on triplet 111)
* PMOS XM_PN2: Drain=MID_P, Gate=Y_CURR_B, Source=VDD, Bulk=VDD
*   -> Turns ON when Y_CURR=1 (Y_CURR_B=0); connects VDD to MID_P
XM_PN2 MID_P Y_CURR_B VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_PN3: Drain=NEG_B, Gate=Y_PREV_B, Source=MID_P, Bulk=VDD
*   -> Turns ON when Y_PREV=1 (Y_PREV_B=0); pulls NEG_B to MID_P (VDD)
XM_PN3 NEG_B Y_PREV_B MID_P VDD p18.1 W=1.2u L=0.18u

* -----------------------------------------------------------------------------
* Output Buffer Inverter: Drives NEG output (NEG = ~NEG_B)
* -----------------------------------------------------------------------------
* PMOS XM_INP: Drain=NEG, Gate=NEG_B, Source=VDD, Bulk=VDD
*   -> Turns ON when NEG_B=0 (Negative operation); pulls NEG to 1.8V
XM_INP NEG NEG_B VDD VDD p18.1 W=2.0u L=0.18u

* NMOS XM_INN: Drain=NEG, Gate=NEG_B, Source=VSS, Bulk=VSS
*   -> Turns ON when NEG_B=1; discharges NEG to 0.0V
XM_INN NEG NEG_B VSS VSS n18.1 W=1.0u L=0.18u

.ends BOOTH_NEG_GEN


* =============================================================================
* LEAF CELL: Pure Static CMOS 2-Wide 2-Input AND-OR-INVERT Gate (CMOS_AOI22)
* -----------------------------------------------------------------------------
* Logic: Y = ~((A & B) | (C & D))
* Transistor Count: 8 Transistors
* Used for glitch-free magnitude selection in BOOTH_SELECTOR:
*   A=SINGLE, B=X_CURR, C=DOUBLE, D=X_PREV
* =============================================================================
.subckt CMOS_AOI22 A B C D Y VDD VSS

* -----------------------------------------------------------------------------
* Pull-Down Network (PDN): 2 Parallel Branches of 2 Series NMOS Transistors
* -----------------------------------------------------------------------------
* Branch 1: Pulls Y to VSS when A=1 and B=1 (SINGLE=1 and X_CURR=1)
* NMOS XM_N1: Drain=Y, Gate=A, Source=N_N1, Bulk=VSS
*   -> Turns ON when A=1; connects output Y to node N_N1
XM_N1 Y A N_N1 VSS n18.1 W=0.6u L=0.18u

* NMOS XM_N2: Drain=N_N1, Gate=B, Source=VSS, Bulk=VSS
*   -> Turns ON when B=1; pulls node N_N1 down to VSS
XM_N2 N_N1 B VSS VSS n18.1 W=0.6u L=0.18u

* Branch 2: Pulls Y to VSS when C=1 and D=1 (DOUBLE=1 and X_PREV=1)
* NMOS XM_N3: Drain=Y, Gate=C, Source=N_N2, Bulk=VSS
*   -> Turns ON when C=1; connects output Y to node N_N2
XM_N3 Y C N_N2 VSS n18.1 W=0.6u L=0.18u

* NMOS XM_N4: Drain=N_N2, Gate=D, Source=VSS, Bulk=VSS
*   -> Turns ON when D=1; pulls node N_N2 down to VSS
XM_N4 N_N2 D VSS VSS n18.1 W=0.6u L=0.18u

* -----------------------------------------------------------------------------
* Pull-Up Network (PUN): Series-Parallel Dual PMOS Network
*   Topology: (A | B) in series with (C | D)
* -----------------------------------------------------------------------------
* Upper Parallel Pair: Connects VDD to intermediate node MID_P
* PMOS XM_P1: Drain=MID_P, Gate=A, Source=VDD, Bulk=VDD
*   -> Turns ON when A=0; pulls MID_P to VDD
XM_P1 MID_P A VDD VDD p18.1 W=1.2u L=0.18u

* PMOS XM_P2: Drain=MID_P, Gate=B, Source=VDD, Bulk=VDD
*   -> Turns ON when B=0; pulls MID_P to VDD
XM_P2 MID_P B VDD VDD p18.1 W=1.2u L=0.18u

* Lower Parallel Pair: Connects MID_P to output node Y
* PMOS XM_P3: Drain=Y, Gate=C, Source=MID_P, Bulk=VDD
*   -> Turns ON when C=0; connects MID_P to output Y
XM_P3 Y C MID_P VDD p18.1 W=1.2u L=0.18u

* PMOS XM_P4: Drain=Y, Gate=D, Source=MID_P, Bulk=VDD
*   -> Turns ON when D=0; connects MID_P to output Y
XM_P4 Y D MID_P VDD p18.1 W=1.2u L=0.18u

.ends CMOS_AOI22


* =============================================================================
* LEAF CELL: Basic Static CMOS Inverter (1X Drive Strength)
* -----------------------------------------------------------------------------
* Logic: OUT = ~IN
* Transistor Count: 2 Transistors
* =============================================================================
.subckt SCL180_INV_1X IN OUT VDD VSS

* PMOS XM1: Drain=OUT, Gate=IN, Source=VDD, Bulk=VDD
*   -> Turns ON when IN=0 (LOW); pulls OUT up to VDD (1.8V)
XM1 OUT IN VDD VDD p18.1 W=1.2u L=0.18u

* NMOS XM2: Drain=OUT, Gate=IN, Source=VSS, Bulk=VSS
*   -> Turns ON when IN=1 (HIGH); discharges OUT down to VSS (0.0V)
XM2 OUT IN VSS VSS n18.1 W=0.5u L=0.18u

.ends SCL180_INV_1X
